US06960594B2
Compound XXVIII: 5-(2-(N,N′-Bis-(BOC)-guanidino)-ethylcarbamoyl)-thiophene-2-carboxylic acid.
With continued reference to Scheme K, To Compound XXVII: 5-(2-(N,N′-Bis-(BOC)-guanidino)-ethylcarbamoyl)-thiophene-2-carboxylic acid methyl ester (2.2 g, 4.66 mmol) in 50% THF/H2O (50 ml) was added 1.5 eq. of LiOH (294 mg, 6.99 mmol) and the reaction mixture was left to stir at room temperature for 3 hours. 10% citric acid solution was added until acidic pH and THF was evaporated. The aqueous solution was then extracted with CH2Cl2 (3×70 ml). The organic phases were combined and washed with a solution of Brine, dried over MgSO4 and evaporated to give the desired product in 84% yield. 1H NMR (CD3OD, 400 MHz) δ 1.34-1.66 (m, 21H), 3.49-3.67 (m, 4H), 7.61-7.70 (dd, 2H).

reactant | 5-(2-(N,N′-Bis-(BOC)-guanidino)-ethylcarbamoyl)-thiophene-2-carboxylic acid methyl ester | 4.66 mmol, 2.2 g | COC(=O)C=1SC(=CC1)C(NCCN(C(=NC(=O)OC(C)(C)C)N)C(=O)OC(C)(C)C)=O | C20H30N4O7S
reactant | LiOH | 6.99 mmol, 294 mg, 1.5 eq. | [Li+].[OH-]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | THF | C1CCOC1 | C4H8O
solvent | THF H2O | 50 ml | C1CCOC1.O
product | 5-(2-(N,N′-Bis-(BOC)-guanidino)-ethylcarbamoyl)-thiophene-2-carboxylic acid | 84% yield | C(=O)(OC(C)(C)C)N(C(=NC(=O)OC(C)(C)C)N)CCNC(=O)C1=CC=C(S1)C(=O)O | C19H28N4O7S
